US05360808
1,6-Dihydro-1-[2-(N-methyl-3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester
To a round bottomed 25 ml flask fitted with a magnetic stirrer bar and nitrogen inlet was added 1,6-dihydro-l-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester (0.211 g, 0.70 mmol) and dimethylformamide (7.0 ml). At room temperature with stirring, sodium hydride (0.018 g, 0.77 mmol, 98% dry) was added. After 45 minutes, the reaction was quenched with dimethylsulfate (0.073 ml, 0.78 mmol). Stirring was continued for 3.75 hours at which time the mixture was concentrated. The crude product was purified by medium pressure liquid chromotography (silica gel, 3% methanol/dichloromethane) and triturated with ether to give the product, MP: 120°-122° C.

reactant | 1,6-dihydro-l-[2-(3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester | 0.70 mmol, 0.211 g | COC(=O)C1=CN(C(C=C1)=O)CCNC(=O)C=1C=NC=CC1 | C15H15N3O4
reactant | sodium hydride | 0.77 mmol, 0.018 g | [H-].[Na+]
reactant | dimethylsulfate | 0.78 mmol, 0.073 ml | COS(=O)(=O)OC | C2H6O4S
solvent | dimethylformamide | 7.0 ml | CN(C=O)C | C3H7NO
product | 1,6-Dihydro-1-[2-(N-methyl-3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=CN(C(C=C1)=O)CCN(C)C(=O)C=1C=NC=CC1 | C16H17N3O4
